US07087629B2
5(S)-Isoxazol-3-ylaminomethyl-3-(4-imidazol-1-yl-3-fluorophenyl)-oxazolidin-2-one
5(R)—(N-(2,2,2-Trichloroethyloxycarbonyl)-isoxazol-3-ylaminomethyl)-3-(4-imidazol-1-yl-3-fluorophenyl)oxazolidin-2-one (crude, 1.7 g, ˜2.5 mM), was stirred in a mixture of acetic acid (40 ml) and water (18 ml) under nitrogen at ambient temperature. Zinc dust (824 mg, 12.5 mM) was added, the mixture stirred 20 minutes, a further portion (200 mg) of zinc added, and stirring continued for 1 hour. The mixture was filtered through celite, and the filter pad washed well with a mixture of acetic acid and water (5:1). The filtrates were evaporated, and the residue partitioned between hydrochloric acid (0.5M, 200 ml) and dichloromethane (150 ml). The aqueous phase was washed with dichloromethane (100 ml), then made basic with the minimum quantity of concentrated ammonia solution, re-extracted with dichloromethane (2×150 ml), dried (magnesium sulfate), and evaporated. Recrystallisation from isopropanol (40 ml) gave the desired product (470 mg).

reactant | 5(R)—(N-(2,2,2-Trichloroethyloxycarbonyl)-isoxazol-3-ylaminomethyl)-3-(4-imidazol-1-yl-3-fluorophenyl)oxazolidin-2-one | ˜2.5 mM, 1.7 g | ClC(COC(=O)N(C1=NOC=C1)C[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)N1C=NC=C1)F)(Cl)Cl | C19H15Cl3FN5O5
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
solvent | water | 18 ml | O | H2O
catalyst | Zinc | 12.5 mM, 824 mg | [Zn] | Zn
catalyst | zinc | 200 mg | [Zn] | Zn
product | 5(S)-Isoxazol-3-ylaminomethyl-3-(4-imidazol-1-yl-3-fluorophenyl)-oxazolidin-2-one | 470 mg | O1N=C(C=C1)NC[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)N1C=NC=C1)F | C16H14FN5O3
